US07572928B2
A solution of 1-phenyl-7-trimethylsilanyl-hept-5-en-3-ol (776 mg, 2.96 mmol, 1 eq) in acetonitrile (30 mL), with sodium bicarbonate (497 mg, 5.92 mmol, 2 eq), was treated with Selectflour™ (2.097 g, 5.92 mmol, 2 eq) and stirred at room temperature under an atmosphere of argon for 18 h. The reaction was then concentrated under reduced pressure and water (10 mL) was added and then extracted with ether (3×15 mL). The combined organic phases were dried over MgSO4, filtered and the solvent removed under reduced pressure. Column chromatography (hexane:ether, 95:5, 9:1, 85:15) gave 5-fluoro-1-phenylhept-6-en-3-ol as a colourless oil (397 mg, 64% yield). For major diastereomer: 1H NMR (400 MHz, CDCl3) δ 1.63-2.04 (m, 4H, CH2CHF, CH2CHOH), 2.67-2.74 (m, 1H, PhCH2), 2.78-2.86 (m, 1H, PhCH2), 3.92-3.98 major (m, 1H, CHOH), 5.05-5.20 (m, 1H, CHF), 5.22-5.27 (m, 2H, CHCH2), 5.86-5.99 (m, 1H, CHCH2), 7.19-7.33 (m, 5H, Ph); 13C NMR (100 MHz, CDCl3) δ 31.8 (PhCH2), 39.1 (PhCH2CH2), 42.4 (CHOHCH2), 67.2 (CHOH), 90.0-91.7 (d, CHF, J=165 Hz), 116.7 (CHCH2), 125.9 (Ph), 128.4 (Ph), 136.0 (CHCH2), 141.7 (Ph); 19F NMR (376.5 MHz , CDCl3) δ −177. For minor diastereomer: 1H NMR (400 MHz, CDCl3) δ 1.63-2.04 (m, 4H, CH2CHF, CH2CHOH), 2.67-2.74 (m, 1H, PhCH2), 2.78-2.86 (m, 1H, PhCH2), 3.85-3.91 (m, 1H, CHOH), 5.05-5.20 (m, 1H, CHF), 5.22-5.27 (m, 2H, CHCH2), 5.33-5.39 (m, 1H, CHCH2), 7.19-7.33 (m, 5H, Ph); 13C NMR (100 MHz, CDCl3) δ 31.8 (PhCH2), 39.1 (PhCH2CH2), 42.4 (CHOHCH2), 68.9 (CHOH), 92.3-93.9 (d, CHF, J=164 Hz), 116.7(CHCH2), 125.9 (Ph), 128.4 (Ph), 136.0 (CHCH2), 141.7 (Ph); 19F NMR (376.5 MHz, CDCl3) δ −180. IR (v, cm−1) 3418 (OH), 1651 (C═C), 1496 (Ar), 1455 (Ar); MS (GCT, CI+) m/z 226.2 [M+NH4]+ HRMS required for C13H21FON: 226.1607, found 226.1611.

reactant | 1-phenyl-7-trimethylsilanyl-hept-5-en-3-ol | 2.96 mmol, 776 mg, 1 eq | C1(=CC=CC=C1)CCC(CC=CC[Si](C)(C)C)O | C16H26OSi
reactant | sodium bicarbonate | 5.92 mmol, 497 mg, 2 eq | C([O-])(O)=O.[Na+]
reactant | Selectflour | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | hexane | CCCCCC | C6H14
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
product | 5-fluoro-1-phenylhept-6-en-3-ol | 397 mg, 64% yield | FC(CC(CCC1=CC=CC=C1)O)C=C | C13H17FO
